US07122673B2
Lamellarin T Diacetate (Compound 39)
Lamellain T diacetate: Lamellarin T (48 mg, 0.088 mmol) was dissolved in a solution of acetic anhydride (1.0 mL) and pyridine (1.0 mL) containing DMAP (several crystals) and the solution stirred at 18° C. for 26 h. The solution was then diluted with ethyl acetate (15 mL) and washed with NaHCO3 (a saturated solution in H2O, 20 mL) and citric acid (10% in H2O, 20 mL) dried over (MgSO4) and concentrated under reduced pressure. The residue was subjected to flash chromatography on silica gel (sequential elution with 2:1, 1:1 hexane/ethyl acetate) the relevant fractions (Rf 0.42 1:1 hexane/ethyl acetate) were concentrated giving the title compound (47 mg, 83%) as a white solid mp 251–2° C. IR (KBr disc, cm−1) 2937, 2840, 1769, 1718, 1603, 1545, 1507, 1475, 1456, 1414, 1295, 1266, 1201, 1141, 1117, 1036. 1H NMR (300 MHz, CDCl3) δ 7.31 (dd, J=2.1, 8.4 Hz, 1H), 7.22 (d, J=2.1 Hz, 1H), 7.14 (d, J=8.7 Hz, 1H), 7.07 (s, 1H), 4.90 (m, 1H), 4.60 (m, 1H), 3.90 (s, 3H), 3.89 (s, 3H), 3.86 (s, 3H), 3.45 (s, 3H), 3.39 (s, 3H), 3.13 (m, 2H), 2.30 (s, 6H). 13C NMR+APT (75.5 MHz CDCl3) δ 168.7 (C), 168.4 (C), 155.0 (C), 151.9 (C), 147.5 (C), 144.8 (C), 142.2 (C), 140.6 (C), 138.7 (C), 135.6 (C), 129.5 (CH), 127.6 (C), 127.2 (C), 125.4 (CH), 122.6 (C), 119.8 (C), 116.1 (C), 114.8 (C), 114.4(C), 112.9 (CH), 111.7 (CH), 105.4 (CH), 105.0 (CH), 60.9 (CH3), 60.8 (CH3), 56.2 (CH3), 55.5 (CH3), 55.2 (CH3), 42.1 (CH2), 21.7 (CH2), 20.4 (CH3). MS (70 eV) m/z (%): 629 (53, M+•), 587 (100, M+•-CH2CO); HRMS calcd for C34H31NO11 629.1897. Found 629.1907.

reactant | diacetate | CC(=O)CC(=O)O | C4H6O3
reactant | Lamellarin T | 0.088 mmol, 48 mg | COC1=C(C=C(C=C1)C2=C3C4=CC(=C(C(=C4CCN3C5=C2C6=CC(=C(C=C6OC5=O)O)OC)OC)OC)OC)O | C30H27NO9
reactant | acetic anhydride | 1.0 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1.0 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | Lamellarin T Diacetate | 47 mg, 83% | CC(=O)OC1=C(C=CC(=C1)C2=C3C4=CC(=C(C(=C4CCN3C5=C2C6=CC(=C(C=C6OC5=O)OC(=O)C)OC)OC)OC)OC)OC | C34H31NO11
